US09376452B2
A solution of 40% v/v TFA/DCM (2.5 mL total) was added to tert-butyl 2-(3-(4-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (34 mg, 0.071 mmol) and the mixture was stirred at room temperature for 1 h. The volatiles were removed at 30° C. and the material was purified by mass-directed reverse-phase chromatography. 2-(3-(4-Methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (14 mg, 0.033 mmol, 46% yield) as a white solid. 1H NMR (500 MHz, DMSO) δ 14.86 (s, 1H), 13.38 (s, 1H), 11.59 (s, 1H), 8.04-7.97 (m, 2H), 7.11-7.03 (m, 2H), 4.65 (s, 2H), 3.86 (s, 3H), 2.73 (s, 2H), 1.22 (s, 6H). 13C NMR (126 MHz, DMSO) δ 174.55, 165.94, 165.28, 163.16, 146.98, 131.01, 129.02, 123.95, 123.75, 116.39, 113.76, 70.12, 58.80, 55.58, 37.25, 26.16. LCMS retention time: 3.264 min; LCMS purity at 214 nm=99%. HRMS m/z calculated for C19H21N2O5S2 [M++1]: 421.0886. found 421.0893. Melting point 213.2° C., decomposition.

reactant | TFA DCM | 2.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | tert-butyl 2-(3-(4-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.071 mmol, 34 mg | COC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=C1 | C23H28N2O5S2
product | 2-(3-(4-Methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 0.033 mmol, 14 mg, 46% yield | COC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)O)=S)C=C1 | C19H20N2O5S2
